US04350634
N-benzoyl-N'-[3-(3-indolyl)propyl]-N'-methyl-1,3-diaminopropane
A solution of 10.1 g benzoyl chloride in 15 ml anhydrous methylene chloride is added dropwise with stirring for 25 minutes between 0° and 10° to a solution of 14.5 g N-[3-(3-indolyl)propyl]-N-methyl-1,3-diaminopropane in 150 ml anhydrous pyridine and the reddish clear solution is stirred for 2 hours at 0°. The reaction mixture is divided between a 2 N sodium carbonate solution and methylene chloride, and the organic phase is washed, dried and evaporated. Chromatographic purification of the resinous product on aluminium oxide using methylene chloride with 0.1 to 0.3% of methanol yields the title compound. The naphthalene-2-sulfonate-dihydrate, obtained by conventional methods, melts at 73°-74° after crystallization from methanol/water/ethyl acetate (1:1:1).

reactant | benzoyl chloride | 10.1 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | N-[3-(3-indolyl)propyl]-N-methyl-1,3-diaminopropane | 14.5 g | N1C=C(C2=CC=CC=C12)CCCN(CCCN)C | C15H23N3
reactant | sodium carbonate | 2 N | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | N-benzoyl-N'-[3-(3-indolyl)propyl]-N'-methyl-1,3-diaminopropane | C(C1=CC=CC=C1)(=O)NCCCN(C)CCCC1=CNC2=CC=CC=C12 | C22H27N3O
